US08048899B2
Activation of 0.5 g (2.40 mmol) of 2-[(2R)-butane-2-sulfonyl]-2-methyl-propionic acid as the corresponding acid chloride is achieved by treatment with oxalyl chloride (0.41 mL, 4.80 mmol), DMF (1 drop) in DCM (10 mL) at room temperature for 18 h. The reaction is concentrated under reduced pressure and excess oxalyl chloride is removed by azeotrope distillation with toluene (3×5 mL) under reduced pressure. The crude acid chloride is dissolved in THF (5 mL) and added to a solution of N,N-diisopropylethylamine (0.84 mL, 4.80 mmol) and 0.3 g (1.58 mmol) of 5-(4-methoxy-phenyl)-4H-[1,2,4]triazol-3-ylamine in THF (5 mL). After complete addition the reaction is heated to 80° C. for 48 h. The reaction is cooled to room temperature and the solvent is removed under reduced pressure. The residue is dissolved in DCM (20 mL) and washed with saturated aqueous NaHCO3 solution (20 mL). The aqueous layer is back-extracted with DCM (2×20 mL). The combined organic layers are dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography (silica, eluent: heptanes, 0-50% ethyl acetate) to yield 0.119 g of 2-[(2R)-butane-2-sulfonyl]-N-[5-(4-methoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-methylpropanamide. Yield: 13%; ES-MS: m/z 381 [M+H]

reactant | 2-[(2R)-butane-2-sulfonyl]-2-methyl-propionic acid | 2.40 mmol, 0.5 g | C[C@H](CC)S(=O)(=O)C(C(=O)O)(C)C | C8H16O4S
reactant | oxalyl chloride | 4.80 mmol, 0.41 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 4.80 mmol, 0.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-(4-methoxy-phenyl)-4H-[1,2,4]triazol-3-ylamine | 1.58 mmol, 0.3 g | COC1=CC=C(C=C1)C=1NC(=NN1)N | C9H10N4O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[(2R)-butane-2-sulfonyl]-N-[5-(4-methoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-methylpropanamide | 0.119 g, Yield: 13% | C[C@H](CC)S(=O)(=O)C(C(=O)NC1=NN=C(N1)C1=CC=C(C=C1)OC)(C)C | C17H24N4O4S
